US07666888B2
N-Methyl-5-(4-methylphenyl)-N-(2-pyridin-3-ylethyl)isoxazole-4-carboxamide
The title compound was prepared from 5-(4-methylphenyl)isoxazole-4-carboxylic acid (10.2 mg, 0.050 mmol) and 3-[2-(methylamino)ethyl]pyridine dihydrochloride (12.5 mg, 0.060 mmol) as described in synthetic method B and thereafter purified by preparative HPLC method B to give a solid (4.6 mg). Calcd for C19H19N3O2: 321.1477, found 321.1491.

reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 10.2 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | 3-[2-(methylamino)ethyl]pyridine dihydrochloride | 0.060 mmol, 12.5 mg | Cl.Cl.CNCCC=1C=NC=CC1
product | N-Methyl-5-(4-methylphenyl)-N-(2-pyridin-3-ylethyl)isoxazole-4-carboxamide | CN(C(=O)C=1C=NOC1C1=CC=C(C=C1)C)CCC=1C=NC=CC1 | C19H19N3O2
